US04322557
(S)-1-Iodo-2-hydroxy-3-phenoxypropane
A mixture of 55 g (0.29 mol) of 1-chloro-2-hydroxy-3-phenoxypropane, 170 g (1.1 mol) sodium iodide in 1.0 of acetone is refluxed in the dark under a nitrogen atmosphere for 3 days. The acetone is removed in vacuo, the residue slurried in chloroform, filtered and the filtrate stripped to afford the title compound.

reactant | 1-chloro-2-hydroxy-3-phenoxypropane | 0.29 mol, 55 g | ClCC(COC1=CC=CC=C1)O | C9H11ClO2
reactant | sodium iodide | 1.1 mol, 170 g | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | (S)-1-Iodo-2-hydroxy-3-phenoxypropane | IC[C@H](COC1=CC=CC=C1)O | C9H11IO2
